US07544812B2
2-Methyl-2-{2-methyl-4-[2-(3-methyl-2-oxo-imidazolidin-4-yl)-ethoxy]-phenoxy}-propionic acid ethyl ester
2-(4-{2-[1-(4-Methoxy-benzyl)-3-methyl-2-oxo-imidazolidin-4-yl]-ethoxy}-2-methyl-phenoxy)-2-methyl-propionic acid ethyl ester (0.105 g, 0.217 mmole) is treated with tryethylsilane (0.064 g, 0.743 mmole) in TFA (8.0 mL) at room temperature for about 6 hours. After evaporating the solvents, the residue is purified using silica gel (0-50% acetone/hexane). Colorless oil (0.041 g, 51%). Mass [EI+] 365 (M+H)+, 729 (2M+H)+.

reactant | 2-(4-{2-[1-(4-Methoxy-benzyl)-3-methyl-2-oxo-imidazolidin-4-yl]-ethoxy}-2-methyl-phenoxy)-2-methyl-propionic acid ethyl ester | 0.217 mmole, 0.105 g | C(C)OC(C(C)(C)OC1=C(C=C(C=C1)OCCC1N(C(N(C1)CC1=CC=C(C=C1)OC)=O)C)C)=O | C27H36N2O6
solvent | TFA | 8.0 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | 2-Methyl-2-{2-methyl-4-[2-(3-methyl-2-oxo-imidazolidin-4-yl)-ethoxy]-phenoxy}-propionic acid ethyl ester | C(C)OC(C(C)(OC1=C(C=C(C=C1)OCCC1N(C(NC1)=O)C)C)C)=O | C19H28N2O5
